US06255276B1
48.5 g (0.1 mol) of (7-carboxyheptyl)triphenylphosphonium bromide were suspended in 150 ml of tetrahydrofuran. After the addition of 24.7 g (0.22 mol) of potassium t-butylate in 50 ml of tetrahydrofuran 26.4 g (0.12 mol) of 8-bromooctanal were added dropwise. After the usual work up 35.4 g of crude 8Z-16-bromohexadec-8-enoic acid were obtained having the following characteristics: Z/E=93/6;

reactant | (7-carboxyheptyl)triphenylphosphonium bromide | 0.1 mol, 48.5 g | [Br-].C(=O)(O)CCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 8-bromooctanal | BrCCCCCCCC=O | C8H15BrO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.12 mol, 50 ml, 26.4 g | O1CCCC1 | C4H8O
product | 8Z-16-bromohexadec-8-enoic acid | 35.4 g | BrCCCCCCC\C=C/CCCCCCC(=O)O | C16H29BrO2
